US07776847B2
To a solution of 4′-methoxybiphenyl-4-carboxylic acid (34 mg, 0.1 mmol) in methylene chloride (1 mL), diethyl cyanophosphonate (23 μL, 0.2 mmol) and 4-methylmorpholine (34 μL, 0.3 mmol) were added at room temperature and allowed to stir for 15 min. A solution of 3-(3-aminopropylamino)-N-(4-methoxybenzyl)benzo[d]isothiazole-5-sulfonamide (57 mg, 0.1 mmol) in methylene chloride (1 mL) was then added and the resulting reaction mixture was allowed to stir for 7 h. Upon diluting the reaction mixture with methylene chloride (20 mL) and 10% HCl aqueous solution, a precipitate was observed, filtered and air-dried to provide 4′-methoxy-N-(3-(5-(N-(4-methoxybenzyl)sulfamoyl)-benzo[d]isothiazol-3-ylamino)propyl)biphenyl-4-carboxamide (13 mg). 1H NMR (300 MHz, DMSO-d6): 9.01 (br s, 1H), 8.58 (t, 1H), 8.47 (d, 1H), 7.88-7.91 (m, 3H), 7.70 (d, 2H), 7.66 (d, 2H), 7.50 (dd, 1H), 7.34 (d, 1H), 7.13 (d, 2H), 7.03 (d, 2H), 6.78 (d, 2H), 3.88 (d, 2H), 3.80 (s, 3H), 3.67 (s, 3H), 3.42-3.48 (m, 2H), 3.31 (m, 2H), 2.00-2.09 ppm (m, 2H). MW=616 confirmed by LC-MS, tr=13.65 min (Method Y) MH+=617.

reactant | 4′-methoxybiphenyl-4-carboxylic acid | 0.1 mmol, 34 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H12O3
reactant | diethyl cyanophosphonate | 0.2 mmol, 23 μL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | 4-methylmorpholine | 0.3 mmol, 34 μL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-aminopropylamino)-N-(4-methoxybenzyl)benzo[d]isothiazole-5-sulfonamide | 0.1 mmol, 57 mg | NCCCNC1=NSC2=C1C=C(C=C2)S(=O)(=O)NCC2=CC=C(C=C2)OC | C18H22N4O3S2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | Cl | ClH
product | 4′-methoxy-N-(3-(5-(N-(4-methoxybenzyl)sulfamoyl)-benzo[d]isothiazol-3-ylamino)propyl)biphenyl-4-carboxamide | 13 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCCNC1=NSC2=C1C=C(C=C2)S(NCC2=CC=C(C=C2)OC)(=O)=O | C32H32N4O5S2
